US07754737B2
A mixture of (R)-tert-butyl 3-((S)-4-acetamido-1-(3-chlorophenyl)-1-hydroxybutyl)-piperidine-1-carboxylate (0.1773 g, 0.4172 mmol) in CH3CN (50 mL) and 2 N aq HCl (45 mL) was vigorously stirred at rt for 24 h. The solvents were removed in vacuo to give the HCl salt of N—((S)-4-(3-chlorophenyl)-4-hydroxy-4-((R)-piperidin-3-yl)butyl)acetamide, which was used in the next step without further purification. LC-MS (3 min) tR=0.91 min, m/z 325, 327 (MH+).

reactant | (R)-tert-butyl 3-((S)-4-acetamido-1-(3-chlorophenyl)-1-hydroxybutyl)-piperidine-1-carboxylate | 0.4172 mmol, 0.1773 g | C(C)(=O)NCCC[C@@](O)(C1=CC(=CC=C1)Cl)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C22H33ClN2O4
solvent | CH3CN | 50 mL | CC#N | C2H3N
solvent | HCl | 2 N, 45 mL | Cl | ClH
product | N—((S)-4-(3-chlorophenyl)-4-hydroxy-4-((R)-piperidin-3-yl)butyl)acetamide | ClC=1C=C(C=CC1)[C@](CCCNC(C)=O)([C@H]1CNCCC1)O | C17H25ClN2O2
